US05051423
N-(2-Aminoethyl)-4-(1H-imidazol-1-yl)benzamide
Dissolve N-(2-aminoethyl)-4-(1H-imidazol-1-yl)benzamide hydrochloride in 50mL H2O and pour onto a column of hydroxide anion exchange resin. Flush the column with H2O and collect fractions with pH>8. Combine the basic fractions and remove the solvents in vacuo to obtain the free base.

reactant | N-(2-aminoethyl)-4-(1H-imidazol-1-yl)benzamide hydrochloride | Cl.NCCNC(C1=CC=C(C=C1)N1C=NC=C1)=O
solvent | H2O | 50mL | O | H2O
product | N-(2-Aminoethyl)-4-(1H-imidazol-1-yl)benzamide | NCCNC(C1=CC=C(C=C1)N1C=NC=C1)=O | C12H14N4O
